US04847413
The process of this invention can be carried out by contacting 2-methyl-2-(methylthio) propionaldehyde oxime with methyl isocyanate in the presence of an aqueous medium for a period sufficient to form 2-methyl-2-(methylthio) propionaldehyde O-(methylcarbamoyl) oxime which is reacted with a mixture of hydrogen peroxide and a carboxylic acid in the presence of an agueous medium and a catalyst, i.e., mineral or organic sulfonic acid, to give 2-methyl-2-(methylsulfonyl) propionaldehyde O-(methylcarbamoyl) oxime as a solid in an agueous slurry which is then filtered to give a water-wet cake.

reactant | 2-methyl-2-(methylthio) propionaldehyde oxime | CC(C=NO)(C)SC | C5H11NOS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 2-methyl-2-(methylthio) propionaldehyde O-(methylcarbamoyl) oxime | CNC(=O)ON=CC(C)(SC)C | C7H14N2O2S
